US03972927
In the manner of Example 1, di-n-dodecylamine was reacted with 3,5-di-t-butyl-4-hydroxybenzoyl chloride to produce N,N-di-n-dodecyl-3,5-di-t-butyl-4-hydroxybenzamide; an oil product. When tested by the procedure of Example 2, the sample containing this compound lasted 600 hours, about 2.0 times as long as the control.

reactant | di-n-dodecylamine | C(CCCCCCCCCCC)NCCCCCCCCCCCC | C24H51N
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
product | N,N-di-n-dodecyl-3,5-di-t-butyl-4-hydroxybenzamide | C(CCCCCCCCCCC)N(C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)CCCCCCCCCCCC | C39H71NO2
